US05034417
A mixture of 4'-acetyl-2'-(2,4-difluorophenylthio)methanesulfonanilide (2.5 g), ammonium acetate (5.4 g) and sodium cyanoborohydride (0.96 g) in methanol (50 ml) was refluxed for 5 hours. The mixture was concentrated to dryness. The residue was dissolved in ethyl acetate, washed with water, dried, and evaporated. The residue (2.6 g) was purified by column chromatography on silica gel (70 g) eluting with a mixture of chloroform and methanol (9:1) to give a white powder of 4'-(1-aminoethyl)-2'-(2,4-difluorophenylthio)methanesulfonanilide (0.84 g).

reactant | 4'-acetyl-2'-(2,4-difluorophenylthio)methanesulfonanilide | 2.5 g | C(C)(=O)C1=CC(=C(NS(=O)(=O)C)C=C1)SC1=C(C=C(C=C1)F)F | C15H13F2NO3S2
reactant | ammonium acetate | 5.4 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 0.96 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 4'-(1-aminoethyl)-2'-(2,4-difluorophenylthio)methanesulfonanilide | 0.84 g | NC(C)C1=CC(=C(NS(=O)(=O)C)C=C1)SC1=C(C=C(C=C1)F)F | C15H16F2N2O2S2
